US08648012B2
Weed Control of 2,4-D+MCPP+Dicamba+Naptalam Mixtures
Seedlings of sunflower (helianthus sp. HELSS) were treated with postemergence applications of either a mixture of 2,4-D+MCPP+dicamba at 208+56+22 g ae/ha or at 83+22+9 g ae/ha, or naptalam at 56 g ae/ha, or the combination of 2,4-D+MCPP+dicamba and naptalam at 208+56+22+56 g ae/ha or at 83+22+9 g+56 g ae/ha, respectively, when they were 8-10 cm in height. All treatment mixtures contained 0.25% (v/v) non-ionic surfactant. Plants were placed in a completely randomized design with four replications per treatment. Percent injury data was collected 10 days after treatment (DAT). The results are summarized in table 7.

reactant | HELSS | C1C/C(=C\Br)/OC(=O)C1C2=CC=CC3=CC=CC=C32 | C16H13BrO2
reactant | 2,4-D MCPP dicamba | C1=CC(=C(C=C1Cl)Cl)OCC(=O)O.C=1C=C(C=C(C1)Cl)N2CCNCC2.COC=1C(=CC=C(C1C(=O)O)Cl)Cl
reactant | naptalam | C=1C=CC=2C(C1)=CC=CC2NC(=O)C=3C=CC=CC3C(=O)O | C18H13NO3
product | 2,4-D MCPP Dicamba Naptalam | C1=CC(=C(C=C1Cl)Cl)OCC(=O)O.C=1C=C(C=C(C1)Cl)N2CCNCC2.COC=1C(=CC=C(C1C(=O)O)Cl)Cl.C=1C=CC=2C(C1)=CC=CC2NC(=O)C=3C=CC=CC3C(=O)O | InChI=1S/C18H13NO3.C10H13ClN2.2C8H6Cl2O3/c20-17(14-9-3-4-10-15(14)18(21)22)19-16-11-5-7-12-6-1-2-8-13(12)16;11-9-2-1-3-10(8-9)13-6-4-12-5-7-13;1-13-7-5(10)3-2-4(9)6(7)8(11)12;9-5-1-2-7(6(10)3-5)13-4-8(11)12/h1-11H,(H,19,20)(H,21,22);1-3,8,12H,4-7H2;2-3H,1H3,(H,11,12);1-3H,4H2,(H,11,12)
